US07423030B2
57.1 (3R)-1-(Naphthalen-2-ylmethyl)-3-tert-butyloxycarbonylaminopyrrolidine
This compound was prepared via the reductive amination method described in 49.2, by reaction of (R)-3-tert-butyloxycarbonylaminopyrrolidine with 2-naphthaldehyde. The residue is purified on a column of silica (eluent: from 100/0 to 90/10 (v/v) dichloromethane/methanol).

reactant | (R)-3-tert-butyloxycarbonylaminopyrrolidine | C(C)(C)(C)OC(=O)N[C@H]1CNCC1 | C9H18N2O2
reactant | 2-naphthaldehyde | C1=C(C=CC2=CC=CC=C12)C=O | C11H8O
product | (3R)-1-(Naphthalen-2-ylmethyl)-3-tert-butyloxycarbonylaminopyrrolidine | C1=C(C=CC2=CC=CC=C12)CN1C[C@@H](CC1)NC(=O)OC(C)(C)C | C20H26N2O2
